US08242104B2
Following the procedure for 9-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene, 9-bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylaminomethylideneamide was reacted with trifluoroethyl hydrazine (70% aqueous) to give 9-Bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene as a white solid. LCMS RT=4.49 min, M+H+=414/416.

reactant | 9-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene | BrC=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)C(C)C)C1 | C16H16BrN5O
reactant | 9-bromo-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene-2-carboxylic acid 1-dimethylaminomethylideneamide | CN(C=NC(=O)C=1C=C2CCOC3=C(N2N1)C=C(C=C3)Br)C | C15H15BrN4O2
reactant | trifluoroethyl hydrazine | FC(CNN)(F)F | C2H5F3N2
product | 9-Bromo-2-[2-(2,2,2-trifluoro-ethyl)-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,10b-diaza-benzo[e]azulene | BrC=1C=CC2=C(N3N=C(C=C3CCO2)C=2N(N=CN2)CC(F)(F)F)C1 | C15H11BrF3N5O
